* C:\Users\daris\Boost_converter\Boostconverter\ltspice\boost_converter.asc
V1 vin 0 5
L1 vin N001 200µ
D1 N001 vout MBRS140
C1 vout 0 10µ
R1 vout 0 118.518
M1 N001 N002 0 0 IRF510
V2 N002 0 PULSE(0 7 0 0 0 5.833u 10u)
.model D D
.lib C:\Users\daris\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\daris\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m
.backanno
.end
